US05798353
By condensing 3-amino-1,3-dihydro-1-methyl-5-(2,4,6-trimethoxyphenyl)-1,4-benzodiazepin-2-one with 3-methylphenyl isocyanate, 1,3-dihydro-1-methyl-3-(3-methylphenylureido)-5-(2,4,6-trimethoxyphenyl)-1,4-benzodiazepin-2-one is obtained; m.p.=240° C, Yield =94%.

reactant | 3-amino-1,3-dihydro-1-methyl-5-(2,4,6-trimethoxyphenyl)-1,4-benzodiazepin-2-one | NC1C(N(C2=C(C(=N1)C1=C(C=C(C=C1OC)OC)OC)C=CC=C2)C)=O | C19H21N3O4
reactant | 3-methylphenyl isocyanate | CC=1C=C(C=CC1)N=C=O | C8H7NO
product | 1,3-dihydro-1-methyl-3-(3-methylphenylureido)-5-(2,4,6-trimethoxyphenyl)-1,4-benzodiazepin-2-one | CN1C(C(N=C(C2=C1C=CC=C2)C2=C(C=C(C=C2OC)OC)OC)NC(=O)NC2=CC(=CC=C2)C)=O | C27H28N4O5
